US05786356
(S)-4-[2-(Dimethyl-tert-butylsilyl)oxy-3-aminopropoxy)-benzimidazole
(S)-4-[2-(Dimethyl-tert-butylsilyl)oxy-3-(dibenzylamino)propoxy]benzimidazole (1.27g. 2.5mmol) was dissolved in methanol (140 mL) and treated with an excess of ammonium formate (1.64g, 25.0 mmol) followed by 10% palladium on carbon (410 mg). The resulting suspension was stirred at reflux for 1 hour. After cooling, the reaction mixture was filtered through a pad of celite. The filtrate was concentrated in vacuo to a brown oil (780 mg, 97%). NMR.

reactant | (S)-4-[2-(Dimethyl-tert-butylsilyl)oxy-3-(dibenzylamino)propoxy]benzimidazole | 2.5mmol, 1.27g | C[Si](O[C@H](COC1=CC=CC=2N=CNC21)CN(CC2=CC=CC=C2)CC2=CC=CC=C2)(C(C)(C)C)C | C30H39N3O2Si
reactant | ammonium formate | 25.0 mmol, 1.64g | C(=O)[O-].[NH4+]
solvent | methanol | 140 mL | CO | CH4O
catalyst | palladium on carbon | 410 mg | [Pd] | Pd
product | (S)-4-[2-(Dimethyl-tert-butylsilyl)oxy-3-aminopropoxy)-benzimidazole | C[Si](O[C@H](COC1=CC=CC=2N=CNC21)CN)(C(C)(C)C)C | C16H27N3O2Si
